US06881746B2
(4-Trifluoromethylphenyl)thiourea (5.00 g; 22.7 mmol) was dissolved in ethanol (45 mL) by gentle heating. Then, α-bromo-p-chloroacetophenone (5.30 g; 22.70 mmol) and DIPEA (3.22 g; 24.9 mmol) was added. The resulting solution was stirred for 16 hours at ambient temperature. The mixture was then concentrated in vacuo, and the residue dissolved in ethyl acetate. The DIPEA hydrobromide, which crystallized out of solution, was removed by filtration. The filtrate was washed with water (2×50 mL) and brine (50 mL), and dried over anhydrous sodium sulphate. The solvent was removed by rotary evaporation to give 7.00 g (93%) of [4-(4-chlorophenyl)thiazol-2-yl]-(4-trifluoromethylphenyl)amine as an oil. The material was pure enough for use in the next step (a crystalline sample can be obtained by re-crystallization in heptane).

reactant | (4-Trifluoromethylphenyl)thiourea | 22.7 mmol, 5.00 g | FC(C1=CC=C(C=C1)NC(=S)N)(F)F | C8H7F3N2S
reactant | α-bromo-p-chloroacetophenone | 22.70 mmol, 5.30 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | DIPEA | 24.9 mmol, 3.22 g | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | [4-(4-chlorophenyl)thiazol-2-yl]-(4-trifluoromethylphenyl)amine | 7.00 g, 93% | ClC1=CC=C(C=C1)C=1N=C(SC1)NC1=CC=C(C=C1)C(F)(F)F | C16H10ClF3N2S
